US08030304B2
5-[7-(1-Ethyl-propyl)-2,5-dimethyl-pyrazolo[1,5-a]pyrimidin-3-yl]-4-trifluoromethyl-thiazol-2-ylamine
Add hydroxylamine (2 mL, 50% in water) to a solution of 3-[2-(2,5-dimethyl-pyrrol-1-yl)-4-trifluoromethyl-thiazol-5-yl]-7-(1-ethyl-propyl)-2,5-dimethyl-pyrazolo[1,5-a]pyrimidine (1.1 g, 2.3 mmol) in acetic acid (10 mL). Heat the reaction to 80° C. for 6 h. Cool to room temperature. Pour into diethyl ether and wash with 2 M NaOH (2×) and then once with water. Dry the organic portion over sodium sulfate, filter, and concentrate to dryness under vacuum. Purify the resulting residue by silica gel chromatography (40% ethyl acetate in hexanes) to give the title compound (0.76 g, 87%). ES/MS m/z 384 (M+1)+.

reactant | hydroxylamine | 2 mL | NO | H3NO
reactant | 3-[2-(2,5-dimethyl-pyrrol-1-yl)-4-trifluoromethyl-thiazol-5-yl]-7-(1-ethyl-propyl)-2,5-dimethyl-pyrazolo[1,5-a]pyrimidine | 2.3 mmol, 1.1 g | CC=1N(C(=CC1)C)C=1SC(=C(N1)C(F)(F)F)C=1C(=NN2C1N=C(C=C2C(CC)CC)C)C | C23H26F3N5S
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 5-[7-(1-Ethyl-propyl)-2,5-dimethyl-pyrazolo[1,5-a]pyrimidin-3-yl]-4-trifluoromethyl-thiazol-2-ylamine | 0.76 g, 87% | C(C)C(CC)C1=CC(=NC=2N1N=C(C2C2=C(N=C(S2)N)C(F)(F)F)C)C | C17H20F3N5S
